US06858651B2
A solution of 52.45 g (200 mmol) triphenylphosphine in 200 ml CH2Cl2 was treated with 33.16 g (100 mmol) tetrabromomethane (the reaction heated up to reflux) and after 50 min with 32.06 ml (230 mmol) triethylamine (the reaction heated up to reflux and became dark violet). After cooling (0° C.), 12.83 g (50 mmol) of trans-(4-Formyl-cyclohexyl)-methyl-carbamic acid tert-butyl ester in 125 ml CH2Cl2 were added during 10 min. The solution was stirred for 16 h at RT, evaporated and filtered through silica gel (deactivated with hexane/Et3N) with hexane and then hexane/ether 4:1 to 1:1 as eluent to yield 13.28 g (67%) of trans-[4-(2,2-Dibromo-vinyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester, mp: 93-99° C., dec.; MS: 396 (MH+, 2Br).

reactant | triphenylphosphine | 200 mmol, 52.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | 100 mmol, 33.16 g | BrC(Br)(Br)Br | CBr4
reactant | triethylamine | 230 mmol, 32.06 ml | C(C)N(CC)CC | C6H15N
reactant | trans-(4-Formyl-cyclohexyl)-methyl-carbamic acid tert-butyl ester | 50 mmol, 12.83 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C=O)=O | C13H23NO3
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 125 ml | C(Cl)Cl | CH2Cl2
product | trans-[4-(2,2-Dibromo-vinyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 13.28 g, 67% | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C=C(Br)Br)=O | C14H23Br2NO2
